US06229020B1
Synthesis of ethyl 3-(5-chloro-2-nitrophenyl)-2-methyl-2-propenate
To 200 ml of benzene, 10.0 g (53.8 mmol) of 5-chloro-2-nitrobenzaldehyde (manufactured by Aldrich Chemical Co., Inc.) and 18.1 g (50.0 mmol) of Wittig reagent (carbethoxyethylidene triphenylphosphorane, manufactured by Aldrich Chemical Co., Inc.) were added, and the mixture was stirred at room temperature for one night. After the completion of the reaction was verified by TLC, the reaction liquid was concentrated, whereby a crude product was obtained. This crude product was refined by a column chromatography (aminopropyl-modified silica gel (Fuji Silysia Chem. Co., NH-DM); developing agent: hexane/ethyl acetate=1/1), whereby 13.3 g of the aimed compound were obtained as a crystal (yield: 98%).

reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 5-chloro-2-nitrobenzaldehyde | 53.8 mmol, 10.0 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl 3-(5-chloro-2-nitrophenyl)-2-methyl-2-propenate | 13.3 g | ClC=1C=CC(=C(C1)C=C(C(=O)OCC)C)[N+](=O)[O-] | C12H12ClNO4
